US04739049
5-(2-Chlorophenyl)-2-[bis(morpholino)phosphinyloxy]-7-nitro-3H-1,4-benzodiazepine
To a stirred solution of 4.74 g (15 mmoles) of 5-(2-chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one in 80 ml of dry tetrahydrofuran at room temperature was added 875 mg of a 50% dispersion of sodium hydride in oil (18 mmoles of hydride). The mixtute was stirred at room temperature for 1 hr until hydrogen evolution stopped. Dimorpholinophosphinic chloride (7.5 g, 30 mmoles) was added and the resulting mixture was stirred at room temperature for 3 hrs. Solids (mixture of product and salt) were collected and partitioned between water and methylene chloride. The methylene chloride layer was dried and evaporated. Crystallization of the residue from methylene chloride ether gave colorless needles, mp 214°-216°.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one | 15 mmoles, 4.74 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O | C15H10ClN3O3
reactant | sodium hydride | [H-].[Na+]
reactant | hydride | 18 mmoles | [H-]
reactant | hydrogen | [H][H] | H2
reactant | Dimorpholinophosphinic chloride | 30 mmoles, 7.5 g | O1CCN(CC1)P(=O)(N1CCOCC1)Cl | C8H16ClN2O3P
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-(2-Chlorophenyl)-2-[bis(morpholino)phosphinyloxy]-7-nitro-3H-1,4-benzodiazepine | ClC1=C(C=CC=C1)C1=NCC(=NC2=C1C=C(C=C2)[N+](=O)[O-])OP(=O)(N2CCOCC2)N2CCOCC2 | C23H25ClN5O6P
